US07786231B2
Preparation of 5-norbornene-2-carboxylic acid butylester
DCPD (dicyclopentadiene, Aldrich, 180 mL, 1.34 mol), butylacrylate (Junsei, 500 mL, 3.49 mol) and hydroquinone (2.7 g, 0.025 mol) were charged into a 2 L high-pressure autoclave, and the temperature was raised to 190° C. The resulting mixture was reacted for 5 hours with stirring at 300 rpm. After the reaction was completed, the reaction mixture was cooled and transferred to a distilling apparatus. The reaction mixture was distilled under a reduced pressure (1 torr) using a vacuum pump to yield the title compound at 80° C. (yield: 78%, exo/endo=55/45).

reactant | DCPD | 1.34 mol, 180 mL | C1C=CC2C1[C@H]3C[C@@H]2C=C3 | C10H12
reactant | butylacrylate | 3.49 mol, 500 mL | C(CCC)OC(C=C)=O | C7H12O2
reactant | hydroquinone | 0.025 mol, 2.7 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 5-norbornene-2-carboxylic acid butylester | yield: 78% | C(CCC)OC(=O)C1C2C=CC(C1)C2 | C12H18O2
